US04933478
Using the procedure described in Example 1b, 3.3 parts of commercially available 50% aqueous phosphinic acid solution are reacted with 22.25 parts of triethylorthoformate in the presence of 0.57 parts of trifluoroacetic acid. Work up and purification by the procedures described in Example 1b gives 3.1 parts (62.9%) of ethyl diethoxymethylphosphinate of 94.7% purity.

reactant | phosphinic acid | [PH2](O)=O | H3O2P
reactant | triethylorthoformate | C(C)OC(OCC)OCC | C7H16O3
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
product | ethyl diethoxymethylphosphinate | 62.9% | C(C)OC(OCC)P(OCC)=O | C7H17O4P
